US04174344
To a solution of 2.58 g (20 mmol) of (1S,2S,6R)-2-methyl-3,7-dioxabicyclo[4.1.0]-heptan-4-one in 300 ml of anhydrous toluene cooled to -75° was added under argon 14 ml (24.5 mmol) of a 1.75 M solution of DIBAL-H in toluene. The reaction mixture was stirred at -75° for 2 hr and then quickly poured onto a slurry of 260 g of silica gel (Silica Gel 60 Merck) in toluene and allowed to filter. The slurry was washed with 3 L of methylene chloride-methanol (9:1). The combined filtrate and washings were evaporated to dryness under reduced pressure. The residual oil was distilled with a Kugelrohr distillation apparatus to afford 3,4-anhydro-2,6-dideoxy-L-ribo-hexose: bp 90° (oven temperature) (0.1 mm); [α]25D +25.16° (c 1.013, MeOH).

reactant | (1S,2S,6R)-2-methyl-3,7-dioxabicyclo[4.1.0]-heptan-4-one | 20 mmol, 2.58 g | C[C@H]1[C@@H]2O[C@@H]2CC(O1)=O | C6H8O3
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-anhydro-2,6-dideoxy-L-ribo-hexose | O=CC[C@@H]1[C@@H](O1)[C@@H](O)C | C6H10O3
